US07960375B2
8-Chloro-4-methyl-1-(3-methyl-4-nitrophenyl)-3H-2,3-benzodiazepine 3-carboxylic acid phenyl ester
15 g (45.7 mmoles) of 8-chloro-4-methyl-1-(3-methyl-4-nitrophenyl)-5H-2,3-benzodiazepine are boiled in a mixture of 28.85 ml (228.5 mmoles) of phenyl chloroformate and 6.34 ml (45.7 mmoles) of triethylamine for 3.5 hours. The reaction mixture is diluted with 150 ml of cyclohexane, the solvent is decanted off the separated oily product, the residue is dissolved in dichloromethane, washed first with saturated sodium hydrogen carbonate solution, then with water and dried over anhydrous sodium sulfate. After evaporation the crude product is recrystallized from ethanol. Thus 11.86 g (58%) of the desired compound (yellow) melting at 188-190° C. are obtained.

reactant | 8-chloro-4-methyl-1-(3-methyl-4-nitrophenyl)-5H-2,3-benzodiazepine | 45.7 mmoles, 15 g | ClC1=CC2=C(CC(=NN=C2C2=CC(=C(C=C2)[N+](=O)[O-])C)C)C=C1 | C17H14ClN3O2
reactant | phenyl chloroformate | 228.5 mmoles, 28.85 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | triethylamine | 45.7 mmoles, 6.34 ml | C(C)N(CC)CC | C6H15N
solvent | cyclohexane | 150 ml | C1CCCCC1 | C6H12
product | 8-Chloro-4-methyl-1-(3-methyl-4-nitrophenyl)-3H-2,3-benzodiazepine 3-carboxylic acid phenyl ester | 11.86 g, 58% | C1(=CC=CC=C1)OC(=O)N1N=C(C2=C(C=C1C)C=CC(=C2)Cl)C2=CC(=C(C=C2)[N+](=O)[O-])C | C24H18ClN3O4
